US08053574B2
Step 2: 1-(5-Bromo-pyridin-3-yl)-ethanone
5-Bromo-nicotinoyl chloride (0.5 g, 2.268 mmol) is suspended in THF (24 ml) at room temperature under an atmosphere of Argon. Fe(acac)3 (0.04 g, 0.113 mmol) is added and the reaction mixture is stirred for 10 minutes until a solution forms. The reaction mixture is cooled to −78° C. and a solution of MeMgBr (3M in diethyl ether, 0.907 ml, 2.722 mmol) is added dropwise with stirring for 2 hours at −78° C. On warming to room temperature silica is added to the reaction mixture and the solvents are reduced in vacuo. Purification by flash chromatography eluting with 50:50 EtOAc/iso-hexanes affords the title compound as a yellow solid [MH+199.90 and 201.90].

reactant | 5-Bromo-nicotinoyl chloride | 2.268 mmol, 0.5 g | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
reactant | MeMgBr | 2.722 mmol, 3M, 0.907 ml | C[Mg+].[Br-]
solvent | THF | 24 ml | C1CCOC1 | C4H8O
product | 1-(5-Bromo-pyridin-3-yl)-ethanone | BrC=1C=C(C=NC1)C(C)=O | C7H6BrNO
